US05648494
1-[2-Chloro-4-(3-chlorophenoxy)phenoxy]-2-ethylaminocarbonyloxyethane (Table 1, Compound No. 1.2.6).
0.1 ml of triethylamine, 15 mg of 1,4-diazabicyclo[2.2.2]octane and 1.3 g of ethyl isocyanate are added to a solution of 4.49 g of 2-[2-chloro-4-(3-chlorophenoxy)phenoxy] ethanol in 40 ml of tetrahydrofuran. The reaction mixture is heated at 55° for 18 hours, with stirring, and then evaporated to dryness in vacuo. The residue is purified by chromatography [silica gel; diethyl ether/hexane (2:3)]. This gives the title compound which melts at 73°-74° C.

reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | 1,4-diazabicyclo[2.2.2]octane | 15 mg | N12CCN(CC1)CC2 | C6H12N2
reactant | ethyl isocyanate | 1.3 g | C(C)N=C=O | C3H5NO
reactant | 2-[2-chloro-4-(3-chlorophenoxy)phenoxy] ethanol | 4.49 g | ClC1=C(OCCO)C=CC(=C1)OC1=CC(=CC=C1)Cl | C14H12Cl2O3
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-[2-Chloro-4-(3-chlorophenoxy)phenoxy]-2-ethylaminocarbonyloxyethane | ClC1=C(OCCOC(=O)NCC)C=CC(=C1)OC1=CC(=CC=C1)Cl | C17H17Cl2NO4
